US07462624B2
Step A: 7-Allyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione
A mixture of 7-allyl-3,7-dihydro-1H-purine-2,6-dione (10.0 g, 0.052 mol), sodium carbonate (8.3 g, 0.078 mol), and 1-iodopentane (12 g, 0.062 mol) in DMF (100 mL) was stirred at 45° C. for 2 days. The reaction mixture was diluted with water and EtOAc. The aqueous layer was extracted with EtOAc three times. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was treated with ether and the solid formed was filtered to provide the desired product as white solid (6.2 g, 45.4%). LCMS calculated for C13H19N4O2 (M+H): 263.2; found: 263.2.

reactant | 7-allyl-3,7-dihydro-1H-purine-2,6-dione | 0.052 mol, 10.0 g | C(C=C)N1C=NC=2NC(NC(C12)=O)=O | C8H8N4O2
reactant | sodium carbonate | 0.078 mol, 8.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-iodopentane | 0.062 mol, 12 g | ICCCCC | C5H11I
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-Allyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | 6.2 g, 45.4% | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)CCCCC | C13H18N4O2
